US04450272
4'-Fluoro-(2-pyrazinyl)-1-piperazinethiocarboxanilide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 50 ml. of anhydrous ether is added dropwise a solution of 4.59 g. of 4-fluorophenyl isothiocyanate in 50 ml. of anhydrous ether with stirring. Stirring is continued for 30 minutes and the resulting solid is collected. This solid is dissolved in a mixture of 200 ml. of ethanol, and 75 ml. of acetone with heat, then concentrated to 200 ml. and cooled giving 7.43 g. of the desired product as a white solid, m.p. 195°-197° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | 4-fluorophenyl isothiocyanate | FC1=CC=C(C=C1)N=C=S | C7H4FNS
solvent | ether | CCOCC | C4H10O
product | 4'-Fluoro-(2-pyrazinyl)-1-piperazinethiocarboxanilide | FC1=CC=C(NC(=S)N2C(CNCC2)C2=NC=CN=C2)C=C1 | C15H16FN5S
